** sch_path: /home/cmaier/EDA/PUDDING/xschem/dac128module.sch
**.subckt dac128module VDD EN[15],EN[14],EN[13],EN[12],EN[11],EN[10],EN[9],EN[8],EN[7],EN[6],EN[5],EN[4],EN[3],EN[2],EN[1],EN[0]
*+ ENB[15],ENB[14],ENB[13],ENB[12],ENB[11],ENB[10],ENB[9],ENB[8],ENB[7],ENB[6],ENB[5],ENB[4],ENB[3],ENB[2],ENB[1],ENB[0]
*+ ON[127],ON[126],ON[125],ON[124],ON[123],ON[122],ON[121],ON[120],ON[119],ON[118],ON[117],ON[116],ON[115],ON[114],ON[113],ON[112],ON[111],ON[110],ON[109],ON[108],ON[107],ON[106],ON[105],ON[104],ON[103],ON[102],ON[101],ON[100],ON[99],ON[98],ON[97],ON[96],ON[95],ON[94],ON[93],ON[92],ON[91],ON[90],ON[89],ON[88],ON[87],ON[86],ON[85],ON[84],ON[83],ON[82],ON[81],ON[80],ON[79],ON[78],ON[77],ON[76],ON[75],ON[74],ON[73],ON[72],ON[71],ON[70],ON[69],ON[68],ON[67],ON[66],ON[65],ON[64],ON[63],ON[62],ON[61],ON[60],ON[59],ON[58],ON[57],ON[56],ON[55],ON[54],ON[53],ON[52],ON[51],ON[50],ON[49],ON[48],ON[47],ON[46],ON[45],ON[44],ON[43],ON[42],ON[41],ON[40],ON[39],ON[38],ON[37],ON[36],ON[35],ON[34],ON[33],ON[32],ON[31],ON[30],ON[29],ON[28],ON[27],ON[26],ON[25],ON[24],ON[23],ON[22],ON[21],ON[20],ON[19],ON[18],ON[17],ON[16],ON[15],ON[14],ON[13],ON[12],ON[11],ON[10],ON[9],ON[8],ON[7],ON[6],ON[5],ON[4],ON[3],ON[2],ON[1],ON[0]
*+ ONB[127],ONB[126],ONB[125],ONB[124],ONB[123],ONB[122],ONB[121],ONB[120],ONB[119],ONB[118],ONB[117],ONB[116],ONB[115],ONB[114],ONB[113],ONB[112],ONB[111],ONB[110],ONB[109],ONB[108],ONB[107],ONB[106],ONB[105],ONB[104],ONB[103],ONB[102],ONB[101],ONB[100],ONB[99],ONB[98],ONB[97],ONB[96],ONB[95],ONB[94],ONB[93],ONB[92],ONB[91],ONB[90],ONB[89],ONB[88],ONB[87],ONB[86],ONB[85],ONB[84],ONB[83],ONB[82],ONB[81],ONB[80],ONB[79],ONB[78],ONB[77],ONB[76],ONB[75],ONB[74],ONB[73],ONB[72],ONB[71],ONB[70],ONB[69],ONB[68],ONB[67],ONB[66],ONB[65],ONB[64],ONB[63],ONB[62],ONB[61],ONB[60],ONB[59],ONB[58],ONB[57],ONB[56],ONB[55],ONB[54],ONB[53],ONB[52],ONB[51],ONB[50],ONB[49],ONB[48],ONB[47],ONB[46],ONB[45],ONB[44],ONB[43],ONB[42],ONB[41],ONB[40],ONB[39],ONB[38],ONB[37],ONB[36],ONB[35],ONB[34],ONB[33],ONB[32],ONB[31],ONB[30],ONB[29],ONB[28],ONB[27],ONB[26],ONB[25],ONB[24],ONB[23],ONB[22],ONB[21],ONB[20],ONB[19],ONB[18],ONB[17],ONB[16],ONB[15],ONB[14],ONB[13],ONB[12],ONB[11],ONB[10],ONB[9],ONB[8],ONB[7],ONB[6],ONB[5],ONB[4],ONB[3],ONB[2],ONB[1],ONB[0] Iout Vpbias[1],Vpbias[0] Vpcbias[1],Vpcbias[0] VSS
*.opin Iout
*.ipin
*+ ON[127],ON[126],ON[125],ON[124],ON[123],ON[122],ON[121],ON[120],ON[119],ON[118],ON[117],ON[116],ON[115],ON[114],ON[113],ON[112],ON[111],ON[110],ON[109],ON[108],ON[107],ON[106],ON[105],ON[104],ON[103],ON[102],ON[101],ON[100],ON[99],ON[98],ON[97],ON[96],ON[95],ON[94],ON[93],ON[92],ON[91],ON[90],ON[89],ON[88],ON[87],ON[86],ON[85],ON[84],ON[83],ON[82],ON[81],ON[80],ON[79],ON[78],ON[77],ON[76],ON[75],ON[74],ON[73],ON[72],ON[71],ON[70],ON[69],ON[68],ON[67],ON[66],ON[65],ON[64],ON[63],ON[62],ON[61],ON[60],ON[59],ON[58],ON[57],ON[56],ON[55],ON[54],ON[53],ON[52],ON[51],ON[50],ON[49],ON[48],ON[47],ON[46],ON[45],ON[44],ON[43],ON[42],ON[41],ON[40],ON[39],ON[38],ON[37],ON[36],ON[35],ON[34],ON[33],ON[32],ON[31],ON[30],ON[29],ON[28],ON[27],ON[26],ON[25],ON[24],ON[23],ON[22],ON[21],ON[20],ON[19],ON[18],ON[17],ON[16],ON[15],ON[14],ON[13],ON[12],ON[11],ON[10],ON[9],ON[8],ON[7],ON[6],ON[5],ON[4],ON[3],ON[2],ON[1],ON[0]
*.ipin
*+ ONB[127],ONB[126],ONB[125],ONB[124],ONB[123],ONB[122],ONB[121],ONB[120],ONB[119],ONB[118],ONB[117],ONB[116],ONB[115],ONB[114],ONB[113],ONB[112],ONB[111],ONB[110],ONB[109],ONB[108],ONB[107],ONB[106],ONB[105],ONB[104],ONB[103],ONB[102],ONB[101],ONB[100],ONB[99],ONB[98],ONB[97],ONB[96],ONB[95],ONB[94],ONB[93],ONB[92],ONB[91],ONB[90],ONB[89],ONB[88],ONB[87],ONB[86],ONB[85],ONB[84],ONB[83],ONB[82],ONB[81],ONB[80],ONB[79],ONB[78],ONB[77],ONB[76],ONB[75],ONB[74],ONB[73],ONB[72],ONB[71],ONB[70],ONB[69],ONB[68],ONB[67],ONB[66],ONB[65],ONB[64],ONB[63],ONB[62],ONB[61],ONB[60],ONB[59],ONB[58],ONB[57],ONB[56],ONB[55],ONB[54],ONB[53],ONB[52],ONB[51],ONB[50],ONB[49],ONB[48],ONB[47],ONB[46],ONB[45],ONB[44],ONB[43],ONB[42],ONB[41],ONB[40],ONB[39],ONB[38],ONB[37],ONB[36],ONB[35],ONB[34],ONB[33],ONB[32],ONB[31],ONB[30],ONB[29],ONB[28],ONB[27],ONB[26],ONB[25],ONB[24],ONB[23],ONB[22],ONB[21],ONB[20],ONB[19],ONB[18],ONB[17],ONB[16],ONB[15],ONB[14],ONB[13],ONB[12],ONB[11],ONB[10],ONB[9],ONB[8],ONB[7],ONB[6],ONB[5],ONB[4],ONB[3],ONB[2],ONB[1],ONB[0]
*.iopin VSS
*.iopin VDD
*.iopin Vpcbias[1],Vpcbias[0]
*.ipin EN[15],EN[14],EN[13],EN[12],EN[11],EN[10],EN[9],EN[8],EN[7],EN[6],EN[5],EN[4],EN[3],EN[2],EN[1],EN[0]
*.ipin ENB[15],ENB[14],ENB[13],ENB[12],ENB[11],ENB[10],ENB[9],ENB[8],ENB[7],ENB[6],ENB[5],ENB[4],ENB[3],ENB[2],ENB[1],ENB[0]
*.iopin Vpbias[1],Vpbias[0]
XMcbias[0] Vpcbias[0] Vpcbias[0] Vpbias[0] VDD sg13_lv_pmos w=5.85u l=0.15u ng=1 m=8
xref[7] VDD Vpbias[0] EN[7] ENB[7] Vpbias[0] Vpcbias[0] VSS unitsource2u
xref[6] VDD Vpbias[0] EN[6] ENB[6] Vpbias[0] Vpcbias[0] VSS unitsource2u
xref[5] VDD Vpbias[0] EN[5] ENB[5] Vpbias[0] Vpcbias[0] VSS unitsource2u
xref[4] VDD Vpbias[0] EN[4] ENB[4] Vpbias[0] Vpcbias[0] VSS unitsource2u
xref[3] VDD Vpbias[0] EN[3] ENB[3] Vpbias[0] Vpcbias[0] VSS unitsource2u
xref[2] VDD Vpbias[0] EN[2] ENB[2] Vpbias[0] Vpcbias[0] VSS unitsource2u
xref[1] VDD Vpbias[0] EN[1] ENB[1] Vpbias[0] Vpcbias[0] VSS unitsource2u
xref[0] VDD Vpbias[0] EN[0] ENB[0] Vpbias[0] Vpcbias[0] VSS unitsource2u
xsrc[63] VDD net1 ON[63] ONB[63] Iout net2 VSS unitsource2u
xsrc[62] VDD net1 ON[62] ONB[62] Iout net2 VSS unitsource2u
xsrc[61] VDD net1 ON[61] ONB[61] Iout net2 VSS unitsource2u
xsrc[60] VDD net1 ON[60] ONB[60] Iout net2 VSS unitsource2u
xsrc[59] VDD net1 ON[59] ONB[59] Iout net2 VSS unitsource2u
xsrc[58] VDD net1 ON[58] ONB[58] Iout net2 VSS unitsource2u
xsrc[57] VDD net1 ON[57] ONB[57] Iout net2 VSS unitsource2u
xsrc[56] VDD net1 ON[56] ONB[56] Iout net2 VSS unitsource2u
xsrc[55] VDD net1 ON[55] ONB[55] Iout net2 VSS unitsource2u
xsrc[54] VDD net1 ON[54] ONB[54] Iout net2 VSS unitsource2u
xsrc[53] VDD net1 ON[53] ONB[53] Iout net2 VSS unitsource2u
xsrc[52] VDD net1 ON[52] ONB[52] Iout net2 VSS unitsource2u
xsrc[51] VDD net1 ON[51] ONB[51] Iout net2 VSS unitsource2u
xsrc[50] VDD net1 ON[50] ONB[50] Iout net2 VSS unitsource2u
xsrc[49] VDD net1 ON[49] ONB[49] Iout net2 VSS unitsource2u
xsrc[48] VDD net1 ON[48] ONB[48] Iout net2 VSS unitsource2u
xsrc[47] VDD net1 ON[47] ONB[47] Iout net2 VSS unitsource2u
xsrc[46] VDD net1 ON[46] ONB[46] Iout net2 VSS unitsource2u
xsrc[45] VDD net1 ON[45] ONB[45] Iout net2 VSS unitsource2u
xsrc[44] VDD net1 ON[44] ONB[44] Iout net2 VSS unitsource2u
xsrc[43] VDD net1 ON[43] ONB[43] Iout net2 VSS unitsource2u
xsrc[42] VDD net1 ON[42] ONB[42] Iout net2 VSS unitsource2u
xsrc[41] VDD net1 ON[41] ONB[41] Iout net2 VSS unitsource2u
xsrc[40] VDD net1 ON[40] ONB[40] Iout net2 VSS unitsource2u
xsrc[39] VDD net1 ON[39] ONB[39] Iout net2 VSS unitsource2u
xsrc[38] VDD net1 ON[38] ONB[38] Iout net2 VSS unitsource2u
xsrc[37] VDD net1 ON[37] ONB[37] Iout net2 VSS unitsource2u
xsrc[36] VDD net1 ON[36] ONB[36] Iout net2 VSS unitsource2u
xsrc[35] VDD net1 ON[35] ONB[35] Iout net2 VSS unitsource2u
xsrc[34] VDD net1 ON[34] ONB[34] Iout net2 VSS unitsource2u
xsrc[33] VDD net1 ON[33] ONB[33] Iout net2 VSS unitsource2u
xsrc[32] VDD net1 ON[32] ONB[32] Iout net2 VSS unitsource2u
xsrc[31] VDD net1 ON[31] ONB[31] Iout net2 VSS unitsource2u
xsrc[30] VDD net1 ON[30] ONB[30] Iout net2 VSS unitsource2u
xsrc[29] VDD net1 ON[29] ONB[29] Iout net2 VSS unitsource2u
xsrc[28] VDD net1 ON[28] ONB[28] Iout net2 VSS unitsource2u
xsrc[27] VDD net1 ON[27] ONB[27] Iout net2 VSS unitsource2u
xsrc[26] VDD net1 ON[26] ONB[26] Iout net2 VSS unitsource2u
xsrc[25] VDD net1 ON[25] ONB[25] Iout net2 VSS unitsource2u
xsrc[24] VDD net1 ON[24] ONB[24] Iout net2 VSS unitsource2u
xsrc[23] VDD net1 ON[23] ONB[23] Iout net2 VSS unitsource2u
xsrc[22] VDD net1 ON[22] ONB[22] Iout net2 VSS unitsource2u
xsrc[21] VDD net1 ON[21] ONB[21] Iout net2 VSS unitsource2u
xsrc[20] VDD net1 ON[20] ONB[20] Iout net2 VSS unitsource2u
xsrc[19] VDD net1 ON[19] ONB[19] Iout net2 VSS unitsource2u
xsrc[18] VDD net1 ON[18] ONB[18] Iout net2 VSS unitsource2u
xsrc[17] VDD net1 ON[17] ONB[17] Iout net2 VSS unitsource2u
xsrc[16] VDD net1 ON[16] ONB[16] Iout net2 VSS unitsource2u
xsrc[15] VDD net1 ON[15] ONB[15] Iout net2 VSS unitsource2u
xsrc[14] VDD net1 ON[14] ONB[14] Iout net2 VSS unitsource2u
xsrc[13] VDD net1 ON[13] ONB[13] Iout net2 VSS unitsource2u
xsrc[12] VDD net1 ON[12] ONB[12] Iout net2 VSS unitsource2u
xsrc[11] VDD net1 ON[11] ONB[11] Iout net2 VSS unitsource2u
xsrc[10] VDD net1 ON[10] ONB[10] Iout net2 VSS unitsource2u
xsrc[9] VDD net1 ON[9] ONB[9] Iout net2 VSS unitsource2u
xsrc[8] VDD net1 ON[8] ONB[8] Iout net2 VSS unitsource2u
xsrc[7] VDD net1 ON[7] ONB[7] Iout net2 VSS unitsource2u
xsrc[6] VDD net1 ON[6] ONB[6] Iout net2 VSS unitsource2u
xsrc[5] VDD net1 ON[5] ONB[5] Iout net2 VSS unitsource2u
xsrc[4] VDD net1 ON[4] ONB[4] Iout net2 VSS unitsource2u
xsrc[3] VDD net1 ON[3] ONB[3] Iout net2 VSS unitsource2u
xsrc[2] VDD net1 ON[2] ONB[2] Iout net2 VSS unitsource2u
xsrc[1] VDD net1 ON[1] ONB[1] Iout net2 VSS unitsource2u
xsrc[0] VDD net1 ON[0] ONB[0] Iout net2 VSS unitsource2u
XMcbias[1] Vpcbias[1] Vpcbias[1] Vpbias[1] VDD sg13_lv_pmos w=5.85u l=0.15u ng=1 m=8
xref1[15] VDD Vpbias[1] EN[15] ENB[15] Vpbias[1] Vpcbias[1] VSS unitsource2u
xref1[14] VDD Vpbias[1] EN[14] ENB[14] Vpbias[1] Vpcbias[1] VSS unitsource2u
xref1[13] VDD Vpbias[1] EN[13] ENB[13] Vpbias[1] Vpcbias[1] VSS unitsource2u
xref1[12] VDD Vpbias[1] EN[12] ENB[12] Vpbias[1] Vpcbias[1] VSS unitsource2u
xref1[11] VDD Vpbias[1] EN[11] ENB[11] Vpbias[1] Vpcbias[1] VSS unitsource2u
xref1[10] VDD Vpbias[1] EN[10] ENB[10] Vpbias[1] Vpcbias[1] VSS unitsource2u
xref1[9] VDD Vpbias[1] EN[9] ENB[9] Vpbias[1] Vpcbias[1] VSS unitsource2u
xref1[8] VDD Vpbias[1] EN[8] ENB[8] Vpbias[1] Vpcbias[1] VSS unitsource2u
xsrc1[127] VDD net4 ON[127] ONB[127] Iout net3 VSS unitsource2u
xsrc1[126] VDD net4 ON[126] ONB[126] Iout net3 VSS unitsource2u
xsrc1[125] VDD net4 ON[125] ONB[125] Iout net3 VSS unitsource2u
xsrc1[124] VDD net4 ON[124] ONB[124] Iout net3 VSS unitsource2u
xsrc1[123] VDD net4 ON[123] ONB[123] Iout net3 VSS unitsource2u
xsrc1[122] VDD net4 ON[122] ONB[122] Iout net3 VSS unitsource2u
xsrc1[121] VDD net4 ON[121] ONB[121] Iout net3 VSS unitsource2u
xsrc1[120] VDD net4 ON[120] ONB[120] Iout net3 VSS unitsource2u
xsrc1[119] VDD net4 ON[119] ONB[119] Iout net3 VSS unitsource2u
xsrc1[118] VDD net4 ON[118] ONB[118] Iout net3 VSS unitsource2u
xsrc1[117] VDD net4 ON[117] ONB[117] Iout net3 VSS unitsource2u
xsrc1[116] VDD net4 ON[116] ONB[116] Iout net3 VSS unitsource2u
xsrc1[115] VDD net4 ON[115] ONB[115] Iout net3 VSS unitsource2u
xsrc1[114] VDD net4 ON[114] ONB[114] Iout net3 VSS unitsource2u
xsrc1[113] VDD net4 ON[113] ONB[113] Iout net3 VSS unitsource2u
xsrc1[112] VDD net4 ON[112] ONB[112] Iout net3 VSS unitsource2u
xsrc1[111] VDD net4 ON[111] ONB[111] Iout net3 VSS unitsource2u
xsrc1[110] VDD net4 ON[110] ONB[110] Iout net3 VSS unitsource2u
xsrc1[109] VDD net4 ON[109] ONB[109] Iout net3 VSS unitsource2u
xsrc1[108] VDD net4 ON[108] ONB[108] Iout net3 VSS unitsource2u
xsrc1[107] VDD net4 ON[107] ONB[107] Iout net3 VSS unitsource2u
xsrc1[106] VDD net4 ON[106] ONB[106] Iout net3 VSS unitsource2u
xsrc1[105] VDD net4 ON[105] ONB[105] Iout net3 VSS unitsource2u
xsrc1[104] VDD net4 ON[104] ONB[104] Iout net3 VSS unitsource2u
xsrc1[103] VDD net4 ON[103] ONB[103] Iout net3 VSS unitsource2u
xsrc1[102] VDD net4 ON[102] ONB[102] Iout net3 VSS unitsource2u
xsrc1[101] VDD net4 ON[101] ONB[101] Iout net3 VSS unitsource2u
xsrc1[100] VDD net4 ON[100] ONB[100] Iout net3 VSS unitsource2u
xsrc1[99] VDD net4 ON[99] ONB[99] Iout net3 VSS unitsource2u
xsrc1[98] VDD net4 ON[98] ONB[98] Iout net3 VSS unitsource2u
xsrc1[97] VDD net4 ON[97] ONB[97] Iout net3 VSS unitsource2u
xsrc1[96] VDD net4 ON[96] ONB[96] Iout net3 VSS unitsource2u
xsrc1[95] VDD net4 ON[95] ONB[95] Iout net3 VSS unitsource2u
xsrc1[94] VDD net4 ON[94] ONB[94] Iout net3 VSS unitsource2u
xsrc1[93] VDD net4 ON[93] ONB[93] Iout net3 VSS unitsource2u
xsrc1[92] VDD net4 ON[92] ONB[92] Iout net3 VSS unitsource2u
xsrc1[91] VDD net4 ON[91] ONB[91] Iout net3 VSS unitsource2u
xsrc1[90] VDD net4 ON[90] ONB[90] Iout net3 VSS unitsource2u
xsrc1[89] VDD net4 ON[89] ONB[89] Iout net3 VSS unitsource2u
xsrc1[88] VDD net4 ON[88] ONB[88] Iout net3 VSS unitsource2u
xsrc1[87] VDD net4 ON[87] ONB[87] Iout net3 VSS unitsource2u
xsrc1[86] VDD net4 ON[86] ONB[86] Iout net3 VSS unitsource2u
xsrc1[85] VDD net4 ON[85] ONB[85] Iout net3 VSS unitsource2u
xsrc1[84] VDD net4 ON[84] ONB[84] Iout net3 VSS unitsource2u
xsrc1[83] VDD net4 ON[83] ONB[83] Iout net3 VSS unitsource2u
xsrc1[82] VDD net4 ON[82] ONB[82] Iout net3 VSS unitsource2u
xsrc1[81] VDD net4 ON[81] ONB[81] Iout net3 VSS unitsource2u
xsrc1[80] VDD net4 ON[80] ONB[80] Iout net3 VSS unitsource2u
xsrc1[79] VDD net4 ON[79] ONB[79] Iout net3 VSS unitsource2u
xsrc1[78] VDD net4 ON[78] ONB[78] Iout net3 VSS unitsource2u
xsrc1[77] VDD net4 ON[77] ONB[77] Iout net3 VSS unitsource2u
xsrc1[76] VDD net4 ON[76] ONB[76] Iout net3 VSS unitsource2u
xsrc1[75] VDD net4 ON[75] ONB[75] Iout net3 VSS unitsource2u
xsrc1[74] VDD net4 ON[74] ONB[74] Iout net3 VSS unitsource2u
xsrc1[73] VDD net4 ON[73] ONB[73] Iout net3 VSS unitsource2u
xsrc1[72] VDD net4 ON[72] ONB[72] Iout net3 VSS unitsource2u
xsrc1[71] VDD net4 ON[71] ONB[71] Iout net3 VSS unitsource2u
xsrc1[70] VDD net4 ON[70] ONB[70] Iout net3 VSS unitsource2u
xsrc1[69] VDD net4 ON[69] ONB[69] Iout net3 VSS unitsource2u
xsrc1[68] VDD net4 ON[68] ONB[68] Iout net3 VSS unitsource2u
xsrc1[67] VDD net4 ON[67] ONB[67] Iout net3 VSS unitsource2u
xsrc1[66] VDD net4 ON[66] ONB[66] Iout net3 VSS unitsource2u
xsrc1[65] VDD net4 ON[65] ONB[65] Iout net3 VSS unitsource2u
xsrc1[64] VDD net4 ON[64] ONB[64] Iout net3 VSS unitsource2u
* tap: EN[15:0] --> EN[7:0]
* tap: ENB[15:0] --> ENB[7:0]
* tap: ENB[15:0] --> ENB[15:8]
* tap: EN[15:0] --> EN[15:8]
* tap: ON[127:0] --> ON[63:0]
* tap: ONB[127:0] --> ONB[63:0]
* tap: ON[127:0] --> ON[127:64]
* tap: ONB[127:0] --> ONB[127:64]
* tap: Vpbias[1:0] --> Vpbias[0]
* tap: Vpcbias[1:0] --> Vpcbias[0]
* tap: Vpbias[1:0] --> Vpbias[1]
* tap: Vpcbias[1:0] --> Vpcbias[1]
E1 VDD net1 VDD Vpbias[0] 1
E2 VDD net2 VDD Vpcbias[0] 1
E3 VDD net4 VDD Vpbias[1] 1
E4 VDD net3 VDD Vpcbias[1] 1
**** begin user architecture code

* device parameters
.param l      = 5u
.param w      = 1.45u
.param lc     = 0.6u
.param wc     = 1.2u
.param lb     = 0.15u
.param wb     = 5.85u
.param lplogic= 0.13u
.param wplogic= 0.5u
.param lnlogic= 0.13u
.param wnlogic= 0.15u


**** end user architecture code
**.ends

* expanding   symbol:  unitsource2u.sym # of pins=7
** sym_path: /home/cmaier/EDA/PUDDING/xschem/unitsource2u.sym
** sch_path: /home/cmaier/EDA/PUDDING/xschem/unitsource2u.sch
.subckt unitsource2u VDD VbiasP ON ONB Iout VcascP VSS
*.iopin VSS
*.iopin VDD
*.iopin VbiasP
*.iopin VcascP
*.ipin ON
*.ipin ONB
*.iopin Iout
xnonoverlap VDD VSS ON ONB on_n off_n nonoverlap
xsw VDD off_n Vcasc on_n VcascP cascodeswitch_pmos
xsrc VDD VbiasP Vcasc Iout pcsource2u
.ends


* expanding   symbol:  nonoverlap.sym # of pins=6
** sym_path: /home/cmaier/EDA/PUDDING/xschem/nonoverlap.sym
** sch_path: /home/cmaier/EDA/PUDDING/xschem/nonoverlap.sch
.subckt nonoverlap VDD VSS INP INN OUTN OUTP
*.iopin VSS
*.iopin VDD
*.ipin INP
*.ipin INN
*.opin OUTP
*.opin OUTN
XM1 OUTN INP VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1 m=1
XM2 OUTP INN VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1 m=1
XM3 OUTN OUTP VSS VSS sg13_lv_nmos w=0.15u l=0.52u ng=1 m=1
XM4 OUTP OUTN VSS VSS sg13_lv_nmos w=0.15u l=0.52u ng=1 m=1
.ends


* expanding   symbol:  cascodeswitch_pmos.sym # of pins=5
** sym_path: /home/cmaier/EDA/PUDDING/xschem/cascodeswitch_pmos.sym
** sch_path: /home/cmaier/EDA/PUDDING/xschem/cascodeswitch_pmos.sch
.subckt cascodeswitch_pmos VDD off_n Vcasc on_n Vbpcasc
*.ipin off_n
*.ipin Vbpcasc
*.opin Vcasc
*.ipin on_n
*.ipin VDD
XMpullup Vcasc off_n VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1 m=1
XMbias Vbpcasc on_n Vcasc VDD sg13_lv_pmos w=0.3u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  pcsource2u.sym # of pins=4
** sym_path: /home/cmaier/EDA/PUDDING/xschem/pcsource2u.sym
** sch_path: /home/cmaier/EDA/PUDDING/xschem/pcsource2u.sch
.subckt pcsource2u VDD VbiasP VcascodeP Iout
*.ipin VcascodeP
*.ipin VbiasP
*.opin Iout
*.ipin VDD
XMsrc drain net2 VDD VDD sg13_lv_pmos w=1.45u l=5u ng=1 m=1
XMcasc Iout net1 drain VDD sg13_lv_pmos w=1.2u l=0.6u ng=1 m=1
Vgsrc net2 VbiasP 0
.save i(vgsrc)
Vgcasc net1 VcascodeP 0
.save i(vgcasc)
.ends

.end
